US07618961B2
Ethyl [2-({[5-(dimethylamino)-1-naphthyl]sulfonyl}amino)-1,3-thiazol-4-yl]acetate
The title compound was prepared from ethyl 2-amino-4-thiazolylacetate and dansyl chloride as described in the synthetic METHOD B to give a yellow solid (10.0 mg) with purity >90%. LCMS (pos) m/z 420.2.

reactant | ethyl 2-amino-4-thiazolylacetate | NC=1SC=C(N1)CC(=O)OCC | C7H10N2O2S
reactant | dansyl chloride | S(=O)(=O)(C1=CC=CC=2C(N(C)C)=CC=CC12)Cl | C12H12ClNO2S
product | Ethyl [2-({[5-(dimethylamino)-1-naphthyl]sulfonyl}amino)-1,3-thiazol-4-yl]acetate | CN(C1=C2C=CC=C(C2=CC=C1)S(=O)(=O)NC=1SC=C(N1)CC(=O)OCC)C | C19H21N3O4S2
